US08669255B2
(7S,8aS)-tert-butyl 7-(benzhydrylcarbamoyl)hexahydropyrrolo[1,2-a]-pyrazine-2(1H)-carboxylate
To a solution of (7S,8aS)-2-(tert-butoxycarbonyl)octahydropyrrolo[1,2-a]pyrazine-7-carboxylic acid (80 mg, 0.296 mmol) in dichloromethane (2 mL) was added a solution of 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide (68.9 mg, 0.444 mmol) and hydroxybenzotriazole hydrate (40.0 mg, 0.296 mmol) in dichloromethane (1 mL). The mixture was stirred at room temperature for 1 hour and then diphenylmethanamine (54.2 mg, 0.296 mmol) was added. After stirring for three days the mixture was poured into water (10 mL). The mixture was extracted with dichloromethane (3×5 mL), the organic fractions were concentrated and the residue was purified by flash chromatography (dichloromethane/methanol=25:1) to give the title compound. MS (ESI) m/z 436 (M+H)+.

reactant | (7S,8aS)-2-(tert-butoxycarbonyl)octahydropyrrolo[1,2-a]pyrazine-7-carboxylic acid | 0.296 mmol, 80 mg | C(C)(C)(C)OC(=O)N1C[C@H]2N(CC1)C[C@H](C2)C(=O)O | C13H22N2O4
reactant | 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide | 0.444 mmol, 68.9 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | hydroxybenzotriazole hydrate | 0.296 mmol, 40.0 mg | O.OC1=CC=CC=2NN=NC21
reactant | diphenylmethanamine | 0.296 mmol, 54.2 mg | C1(=CC=CC=C1)C(N)C1=CC=CC=C1 | C13H13N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | (7S,8aS)-tert-butyl 7-(benzhydrylcarbamoyl)hexahydropyrrolo[1,2-a]-pyrazine-2(1H)-carboxylate | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(=O)[C@H]1C[C@@H]2N(CCN(C2)C(=O)OC(C)(C)C)C1 | C26H33N3O3
